US04148897
In 100 ml. of ethanol is dissolved a mixture of 10 g. of 3,4-dihydro-1(2H)-naphthalenone, 22 g. of 1-benzhydrylpiperazine hydrochloride and 10 g. of 37% aqueous formalin and the mixed solution is stirred at room temperature for 3 hours and, then, heated at 80° C. for another 3 hours. To this reaction mixture is added 500 ml. of water and, after shaking with 100 ml. of diethyl ether, the water layer is neutralized with sodium hydrogen carbonate and extracted with chloroform. The extract is dried over anhydrous sodium sulfate and distilled under reduced pressure to remove the solvent. By the above procedure is obtained an oil of 2-(4-benzhydryl-1-piperazinylmethyl)-3,4-dihydro-1(2H)-naphthalenone. This product is dissolved in a mixture of 50 ml. of chloroform and 100 ml. of methanol. After addition of 5 g. of sodium borohydride, the mixture is stirred at room temperature for 30 minutes. Following addition of 500 ml. of water, the reaction mixture is extracted with chloroform and the extract is dried. The solvent is distilled off under reduced pressure and the residue is purified by chromatography on a column of silica gel (acetone-benzene=1:9). By the above procedure is obtained 4.3 g. of 2-(4-benzhydryl-1-piperazinylmethyl)-1,2,3,4-tetrahydro-1-naphthalenol as colorless prisms melting at 179°-181° C.

reactant | 3,4-dihydro-1(2H)-naphthalenone | C1(CCCC2=CC=CC=C12)=O | C10H10O
reactant | 1-benzhydrylpiperazine hydrochloride | Cl.C(C1=CC=CC=C1)(C1=CC=CC=C1)N1CCNCC1
reactant | formalin | C=O | CH2O
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | water | O | H2O
solvent | diethyl ether | C(C)OCC | C4H10O
solvent | ethanol | C(C)O | C2H6O
product | 2-(4-benzhydryl-1-piperazinylmethyl)-3,4-dihydro-1(2H)-naphthalenone | C(C1=CC=CC=C1)(C1=CC=CC=C1)N1CCN(CC1)CC1C(C2=CC=CC=C2CC1)=O | C28H30N2O
